US06020525
A mixture of (1R,2R)-3-bromo-1,2-dicarbomethoxy-3-formyl-cyclopropane (428 mg, 1.6 mmmol), zinc powder (230 mg, 3.5 mmol) and acetic acid (2 ml) was stirred at room temperature over a period of 4 hours. Filtration, evaporation and column chromatography yielded (1R,2R)-1,2-dicarbomethoxy-3-formyl-cyclopropane (265 mg, 88%) as a colorless oil. [α]20D=-48° (c=1 in MeOH); 1H NMR (CDCl3): d 2.53 (ddd, J=5, 6, 8 Hz, 1H), 2.71 (dd, J=6, 8 Hz, 1H), 3.01 (t, J=6 Hz, 1H), 3.76 (s, 6H), 9.42 (d, J=5 Hz, 1H); MS (FAB) m/e 187 [M+H+ ].

reactant | (1R,2R)-3-bromo-1,2-dicarbomethoxy-3-formyl-cyclopropane | 428 mg | BrC1([C@H]([C@@H]1C(=O)OC)C(=O)OC)C=O | C8H9BrO5
catalyst | zinc | 3.5 mmol, 230 mg | [Zn] | Zn
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (1R,2R)-1,2-dicarbomethoxy-3-formyl-cyclopropane | 265 mg, 88% | C(=O)(OC)[C@H]1[C@@H](C1C=O)C(=O)OC | C8H10O5
